US09108944B2
Sodium cyanide (1.3 g, 26.6 mmol) was added to a mixture of ethyl 4-amino-2-fluorobenzoate (3.25 g, 17.8 mmol) and cyclobutanone (2 mL, 26.6 mmol) in acetic acid (99%, 40 mL) hooked up to a NaOH scrubber and the resulting mixture was heated to 80° C. overnight. The mixture was cooled to room temperature and poured in water. The pink precipitate was filtered, washed with water, and redissolved in DCM (100 mL). The organic layer was washed with a saturated solution of sodium bicarbonate (4×), dried over sodium sulfate, and evaporated to dryness to afford 3.9 g of ethyl 4-((1-cyanocyclobutyl)amino)-2-fluorobenzoate as an orange solid. 1H NMR (300 MHz, CDCl3) δ 7.87 (t, 1H), 6.43 (dd, 1H), 6.34 (dd, 1H), 4.55 (s, 1H), 4.36 (q, 2H), 2.91-2.82 (m, 2H), 2.46-2.30 (m, 2H), 2.28-2.13 (m, 2H), 1.39 (t, 3H).

reactant | Sodium cyanide | 26.6 mmol, 1.3 g | [C-]#N.[Na+]
reactant | ethyl 4-amino-2-fluorobenzoate | 17.8 mmol, 3.25 g | NC1=CC(=C(C(=O)OCC)C=C1)F | C9H10FNO2
reactant | cyclobutanone | 26.6 mmol, 2 mL | C1(CCC1)=O | C4H6O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | ethyl 4-((1-cyanocyclobutyl)amino)-2-fluorobenzoate | 3.9 g | C(#N)C1(CCC1)NC1=CC(=C(C(=O)OCC)C=C1)F | C14H15FN2O2
